US04052510
3-Acetyl-2,6-di-t-butylamino-4-methylpyridine
About 60 ml. of anhydrous ammonia were condensed into a flask containing 60 ml. of methylene chloride. The reaction mixture was maintained at a temperature not in excess of -30° C. under nitrogen and a solution of 50 g. of 2-t-butyl-5-methylisoxazolium perchlorate in 100 ml. of methylene chloride was added rapidly. The reaction mixture was allowed to come to room temperature and stirred for 4 days at room temperature. The methylene chloride was then removed at reduced pressure to obtain a gummy solid which was triturated with water to obtain a yellow solid. Recrystallization of the yellow solid from methanol/water yielded the product, m.p. 128°-129° C. Its spectra were identical with those of the product of Example 4(a).

reactant | ammonia | N | H3N
reactant | 2-t-butyl-5-methylisoxazolium perchlorate | Cl(=O)(=O)(=O)[O-].C(C)(C)(C)[N+]=1OC(=CC1)C
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-Acetyl-2,6-di-t-butylamino-4-methylpyridine | C(C)(=O)C=1C(=NC(=CC1C)NC(C)(C)C)NC(C)(C)C | C16H27N3O
